US06352977B1
(a) 3-(3-Ethoxy-4-methoxy-benzylamino)-propionic acid ethyl ester
A mixture of β-alanine ethyl ester hydrochloride (1.6 g), 3-ethoxy-4-methoxybenzaldehyde (1.8 g), sodium cyanoborohydride (0.42 g) and powdered 3Å molecular seives (2.5 g) in ethanol (25 ml) was stirred at ambient temperature for 24 hours. A further aliquot of sodium cyanoborohydride (0.42 g) was added and stirring was continued for a further 24 hours. The reaction mixture was filtered and the filtrate was evaporated. The residue was treated with ethyl acetate (100 ml) and the solution was washed with 10% aqueous potassium carbonate (50 ml), then twice with water (25 ml), then with brine (25 ml), then dried over magnesium sulphate and then evaporated. The residual oil was subjected to flash chromatography on silica eluting with a mixture of dichloromethane and methanol (95:5, v/v) to give the title compound as a colourless oil (1.1 g).

reactant | β-alanine ethyl ester hydrochloride | 1.6 g | Cl.C(C)OC(CCN)=O
reactant | 3-ethoxy-4-methoxybenzaldehyde | 1.8 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | sodium cyanoborohydride | 0.42 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.42 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(3-Ethoxy-4-methoxy-benzylamino)-propionic acid ethyl ester | 1.1 g | C(C)OC(CCNCC1=CC(=C(C=C1)OC)OCC)=O | C15H23NO4
